US07781436B2
To a stirred solution of 1-(5,6-dichloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (0.11 g) in 3 ml of DMF at 0° C., were added 18 mg (1.05 eq.) of NaH (60% in oil). The mixture was stirred for 30 min. and then 0.04 ml (1.0 eq.) of dimethylamino-acetyl chloride were added. The mixture was stirred an additional hour and then poured onto water and extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo to afford 112 mg (78%) of 2-[5,6-dichloro-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N,N-dimethyl-acetamide as a white solid.

reactant | 1-(5,6-dichloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 0.11 g | ClC=1C=C2C(=CNC2=CC1Cl)C(C(F)(F)F)=O | C10H4Cl2F3NO
reactant | NaH | 18 mg, 1.05 eq. | [H-].[Na+]
reactant | dimethylamino-acetyl chloride | 0.04 ml, 1.0 eq. | CN(C)CC(=O)Cl | C4H8ClNO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[5,6-dichloro-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N,N-dimethyl-acetamide | 112 mg, 78% | ClC=1C=C2C(=CN(C2=CC1Cl)CC(=O)N(C)C)C(C(F)(F)F)=O | C14H11Cl2F3N2O2
